US07223791B2
To a solution (20 ml) of 4-[5-(4-trifluoromethylphenyl)-2-furyl]benzoic acid -(0.665 g) and N,N-dimethylformamide (0.1 ml) in tetrahydrofuran was added oxalyl chloride (0.209 ml) at 0° C. This mixture was stirred for 10 min., and concentrated. The residue was dissolved in acetonitrile (30 ml), and this solution was added dropwise to 25% aqueous ammonia (50 ml) at 0° C. The mixture was stirred for 10 min. and poured into water. The crystals were collected by filtration and recrystallized from ethanol to give 4-[5-(4-trifluoromethylphenyl)-2-furyl]benzamide (0.506 g, yield 76%) as a colorless crystalline powder. melting point: 263–264° C.

reactant | 4-[5-(4-trifluoromethylphenyl)-2-furyl]benzoic acid | 20 ml, 0.665 g | FC(C1=CC=C(C=C1)C1=CC=C(O1)C1=CC=C(C(=O)O)C=C1)(F)F | C18H11F3O3
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.209 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[5-(4-trifluoromethylphenyl)-2-furyl]benzamide | 0.506 g, yield 76% | FC(C1=CC=C(C=C1)C1=CC=C(O1)C1=CC=C(C(=O)N)C=C1)(F)F | C18H12F3NO2
